* C:\Users\jack\OneDrive\Documents\GitHub\BuckLinReg_5V\ZenerSim.asc
XD1 0 Vreg PDZ3.0B
V1 N001 0 5
R1 Vreg N001 {Rvar}
.lib PDZ3_0B.prm
.step param Rvar list 1k 10k 100k
.tran 0 0.1m 0m 100n startup
.backanno
.end
